US05656629
A mixture of 1-cyclopentyl-3-ethyl-6-(methylsulfonyl)pyrazolo[3,4-d]pyrimidin-4-one (3 g, 9.6 mmol), phenol (6 g, 64 mmol) and NaH (0.5 g, 12.8 mmol, 60% dispersion in mineral oil) was heated at 170°-175° C. for 5 hours. The reaction mixture was poured into water (50 mL) and extracted with CHCl3 (100 mL). The CHCl3 layer was concentrated in vacuo and the residue was purified by column chromatography on silica gel eluting with 10% ether/hexane to afford 2.1 g (68%) of 1-cyclopentyl-3-ethyl-6-(phenyloxy)pyrazolo[3,4-d]pyrimidin-4-one, as a white solid, m.p. 175°-177° C.

reactant | 1-cyclopentyl-3-ethyl-6-(methylsulfonyl)pyrazolo[3,4-d]pyrimidin-4-one | 9.6 mmol, 3 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)S(=O)(=O)C)CC | C13H18N4O3S
reactant | phenol | 64 mmol, 6 g | C1(=CC=CC=C1)O | C6H6O
reactant | NaH | 12.8 mmol, 0.5 g | [H-].[Na+]
solvent | water | 50 mL | O | H2O
product | 1-cyclopentyl-3-ethyl-6-(phenyloxy)pyrazolo[3,4-d]pyrimidin-4-one | 2.1 g, 68% | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)OC2=CC=CC=C2)CC | C18H20N4O2
